US07132539B2
Preparation of 2-(3-cyclopropylmethyl-2-oxo-piperazin-1-yl)-3-naphthalen-2-yl-propionic acid methyl ester (14):
To a solution of 2-[3-cyclopropylmethyl-4-(2-nitro-benzenesulfonyl)-2-oxo-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester, 13, (3.56 g, 6.46 mmol) and 4-mercaptophenol (4.07 g, 32.3 mmol) in CH3CN (50 mL) is added potassium carbonate (8.91 g, 64.6 mmol). The reaction mixture is stirred for 15 hours, quenched with 10% NaHCO3 solution and extracted several times with EtOAc. The combined extracts are dried over Na2SO4 and concentrated in vacuo to yielding a bright yellow oil which is purified over silica gel (hexanes/EtOAc, 1:1 to EtOAc/MeOH, 10:1) to afford 2.10 g (89% yield) of the desired product. 1H NMR (300 MHz, CD3OD) δ 7.76–7.86 (m, 3H), 7.71 (s, 1H), 7.37–7.52 (m, 3H), 5.27 (dd, J=11.7, 4.8 Hz, 1H), 3.79 (s, 3H), 3.25–3.60 (m, 4H), 2.88–3.06 (m, 2H), 2.62–2.75 (m, 1H), 1.56–1.68 (m, 1H), 1.16–1.29 (m, 1H), 0.01–0.25 (m, 3H), −0.19–−0.08 (m, 2H); 13C NMR (75 MHz, MeOD) δ 171.55, 171.01 m 134.88, 133.78, 132.74, 128.15, 127.52, 127.45, 127.11, 126.11, 125.64, 59.42, 58.92, 51.78, 46.77, 41.23, 36.59, 33.97, 6.63, 3.72, 3.46; MS (ESMS) m/z 367.2 (M+H)+.

reactant | 2-[3-cyclopropylmethyl-4-(2-nitro-benzenesulfonyl)-2-oxo-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C=C1)N1C(C(N(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC1CC1)=O)=O | C28H29N3O7S
reactant | 4-mercaptophenol | 32.3 mmol, 4.07 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | potassium carbonate | 64.6 mmol, 8.91 g | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 2-(3-cyclopropylmethyl-2-oxo-piperazin-1-yl)-3-naphthalen-2-yl-propionic acid methyl ester | 2.10 g, 89% yield | COC(C(CC1=CC2=CC=CC=C2C=C1)N1C(C(NCC1)CC1CC1)=O)=O | C22H26N2O3
